Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Nosebleed
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: Mr. ___ is a ___ Jet Blue flight attendant with
uncontrolled HTN (triage BP 198/133, repeat BP 232/154 L arm,
190/142 R arm) presenting with epistaxis x2 over the past 12h. 

His first episods started at 3 AM this morning after ___ got off 
a
flight from the ___. ___ any trauma, surgery, nose-picking
or use of intranasal medication or illicit substance prior to 
the
start of bleed. Per patient report, ___ had copious bleeding from
the right nostril. ___ also tasted blood in his throat. The bleed
stopped after ___ tilted his head back and packed his nostril 
with
napkins for about 30 minutes. The second episode of epistaxis
started at 9am, with bleeding from both nostrils and a larger
amount of postnasal drip. ___ was spitting out blood. ___ again
attempted to stop the bleed by tilting head back and packing. 
The
bleeding stopped by the time ___ was in ED triage but recurred
again on the floor.

On ROS: ___ denies CP, SOB, dizziness, blurry vision, headache,
confusion, dizziness, N/V, abdominal pain, lower extremity 
edema,
back pain, hematuria, hematochezia, melena. ___ is not on any
anti-coagulation meds. otherwise +polydipsia, +polyuria,
+nocturia (x7 per night). All other systems were reviewed and 
are
negative. 

ED Course:
VS: 97.5, 95, 198/133, RR 20, 97% RA 
PE: dried blood in nasal passage, none in oropharynx
Labs: Hb 18.3, Cr 1.0
Imaging: no new imaging
Interventions: 5 mg IV labetalol, 50 mg po metoprolol tartrate.
Seen by ENT intern, per pt they used afrin spray for bleed. 
Admit for HTN, monitoring for airway compromise

 
Past Medical History:
#Epistaxis (nose bleeding)
#Hypertension
#Possible CAD/prior MI -- septal Q waves on ECG
#Sleep apnea
#Type 2 diabetes
#Obesity
#Steatosis
 
Social History:
___
Family History:
Father MI at ___
 
Physical Exam:
Admission EXAM(8)
VS notable for hypertension (232/154 L arm, 232/154 R arm on
repeat measurement), otherwise VSS
GEN: NAD
HEENT: head normocephalic and atraumatic, no icterus, no
discharge/bleed in ear canal, no blood visualized in oropharynx,
dry blood in nasal passage, epistaxis started right after exam;
PERRLA; full EOM; no papilledema
CV: distal pulses intact; no JVD; RRR S1 S2, no murmurs, rubs,
extra heart sounds; no pitting lower extremity edema
Resp: normal respiratory effort; diffuse wheezing throughout b/l
lung fields
Abd: soft, ND, NT
Neuro: strength ___ in extremities; sensation to touch intact in
extremities; CN ___ intact; 
Psych: pleasant mood and affect

Discharge exam
Afebrile, systolic blood pressures ranging 133–149, heart rate, 
respirations, and O2 saturation all normal while awake, some 
occasional desaturations while sleeping.  Fingerstick blood 
glucose 111.  Obese young man lying in bed asleep, appears to 
have some apnea, awakens easily, then alert, cooperative, NAD.  
Anicteric, MMM, no signs of epistaxis.  Very large tonsils 
bilaterally.  Equal chest rise, CTAB posteriorly, no WOB or 
cough.  Heart regular.  No murmurs rubs or gallops.  Abdomen 
obese, soft, NTND.  Extremities warm and well-perfused, no 
pitting edema.
 
Pertinent Results:
Admission labs
___ 04:49PM URINE  HOURS-RANDOM
___ 04:49PM URINE  UHOLD-HOLD
___ 04:49PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:49PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:49PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:49PM URINE  RBC-<1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 04:49PM URINE  MUCOUS-RARE*
___ 12:20PM   estGFR-Using this
___ 12:20PM   estGFR-Using this
___ 12:20PM   WBC-5.8 RBC-6.17* HGB-18.3* HCT-56.8* MCV-92 
MCH-29.7 MCHC-32.2 RDW-13.2 RDWSD-44.2
___ 12:20PM   NEUTS-41.3 ___ MONOS-13.2* EOS-1.0 
BASOS-0.9 IM ___ AbsNeut-2.41 AbsLymp-2.53 AbsMono-0.77 
AbsEos-0.06 AbsBaso-0.05
___ 12:20PM   PLT COUNT-199
___ 12:20PM   ___ PTT-30.9 ___

Discharge labs
___ 06:40AM BLOOD WBC-5.3 RBC-6.05 Hgb-18.1* Hct-58.3* 
MCV-96 MCH-29.9 MCHC-31.0* RDW-13.3 RDWSD-47.7* Plt ___
___ 06:40AM BLOOD ___ PTT-32.3 ___
___ 06:40AM BLOOD Glucose-114* UreaN-15 Creat-0.9 Na-142 
K-5.4 Cl-103 HCO3-27 AnGap-12
___ 06:40AM BLOOD Phos-4.7* Mg-2.2
___ 04:49PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
___ man with uncontrolled HTN presenting with x2 epistaxis 
within last 8hr. ENT did not consult, but verbally indicated 
that they felt the epistaxis was likely related to the patient's 
hypertension and the dry air in the airplanes in which ___ works 
___ is a ___).  They recommended blood pressure 
control, lateral nasal pressure, and oxymetolazine spray.  These 
measures worked very well and the patient's bleeding quickly 
stopped.

On the day of discharge the patient was feeling well and looking 
forward to going home.  ___ had had no more episodes of bleeding 
from though to that have brought him into the hospital.  We 
discussed his hypertension management and medications, his 
diabetes management and medications, the importance of 
follow-up, including regarding his CPAP therapy, and his 
polycythemia requiring further workup in the outpatient setting. 
 ___ understood and had no additional questions for me.

#Epistaxis
Two episodes of epistaxis from the right nostril.  Given ___ 
time occurrence, no other bleeding issues, no history of 
coagulopathy in his family, normal labs (apart from 
polycythemia), negative tox screen, no insertion of foreign 
objects into nose, it's felt that most likely his bleed was 
caused by dry air on plane and hypertension. 

#Polycythemia
-likely requires further workup, though I do wonder if this 
could be related to his sleep apnea
-Unfortunately due to restrictions on inpatient lab ordering, 
the indicated testing 
 -- erythropoietin level and JAK2 V617F Mutation Detection -- 
could not be ordered
–These are transitional issues for outpatient primary care

#Hypertension
#Possible CAD (given septal Q waves on old ECG)
-Blood pressure continues to be above goal at his PCP 
___.  PCP was hoping to increase his lisinopril, 
especially given his ongoing albuminuria with diabetes.  "If 
potassium remains high, may need to start a thiazide in addition 
to increase lisinopril. Regardless, patient will return to 
clinic for blood pressure titration and lab follow-up in 2 
weeks."
-Patient was continued on his home medications including 
acetazolamide (prescribed by his sleep physician), amlodipine 
and lisinopril
-Consider further evaluation for coronary disease given the 
septal Q waves seen on ___ ECG
-___ will follow-up with his PCP

___ 2 diabetes mellitus
-A1c here was 7.0
-was on metformin 500 mg daily at home, increased to 500 mg 
twice daily on discharge to try to get patient's HbA1c <7%

#Obstructive sleep apnea
-Continues to suffer from suboptimal CPAP adherence due to 
discomfort  
-Encouraged outpatient follow-up with Sleep/Pulmonary to improve 
adherence

#Obesity
-Encouraged patient to keep considering gastric sleeve with the 
weight loss surgery clinic

[x] The patient is safe to discharge today, and I spent [ ] 
<30min; [x] >30min in discharge day management services.

___, MD
___
Pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. AcetaZOLamide 250 mg PO QPM 
4. MetFORMIN (Glucophage) 500 mg PO DAILY 

 
Discharge Medications:
1.  Oxymetazoline 1 SPRY NU BID:PRN recurrent nosebleed 
Duration: 3 Days 
RX *oxymetazoline 0.05 % 2 SPRY intranasally BID:PRN Disp #*1 
Spray Refills:*0 
2.  MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin 500 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
3.  AcetaZOLamide 250 mg PO QPM 
RX *acetazolamide 250 mg 1 tablet(s) by mouth QPM Disp #*30 
Tablet Refills:*0 
4.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*0 
5.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Epistaxis (nose bleeding)
#Hypertension
#Elevated hemoglobin
#Sleep apnea
#Type 2 diabetes
#Obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after suffering several nose bleeds.  These 
were felt to be due to your hypertension (high blood pressure) 
and the drain air on the planes where you work as a member of 
the in-flight crew.  After controlling your blood pressure and 
giving you some sprays of oxymetazoline nasal spray, your 
bleeding stopped.

We also found that you have a high hemoglobin level.  It's not 
yet clear why you have this.  More testing should be performed 
by your primary care doctor.

It's important to follow-up as noted below and to take your 
medications as prescribed.
 
Followup Instructions:
___